US05420151
Demethylation was done by addition of BBr3 (2.6 ml, 27.5 mmol) in 10 ml dry CH2Cl2 during 20 min., to a stirred, cooled solution (-70° C.) of (R)-8-fluoro-5-methoxy-3-(N-3-pentyl-N-n-propylamino)chroman hydrochloride (4.44 g, 12.8 mmol) in 100 ml dry CH2Cl2 under N2 atmosphere and dry conditions. The solution was stirred for 1 hour at -70° C., 1 hour at 0° C. and 1 hour at room temp. and was thereafter poured into 80 ml saturated NaHCO3 aq. under vigirous stirring. After 0.5 hour the layers where separated and the aqueous phase was extracted with 2×150 ml CH2Cl2. The combined organic layers where dried (Na2SO4) and evaporated. The crude product was purified by flash chromatography on silica with a gradient of petroleumether-petroleumether: EtOAc, 4:1 to give 3.72 g of (R)-8 -fluoro-5-hydroxy-3-(N-3-pentyl-N-n-propylamino)chroman (NAG 134) as an yellow-brown oil. [α]D22 -85° (c 1.02 in MeOH).

reactant | BBr3 | 27.5 mmol, 2.6 ml | B(Br)(Br)Br | BBr3
reactant | (R)-8-fluoro-5-methoxy-3-(N-3-pentyl-N-n-propylamino)chroman hydrochloride | 12.8 mmol, 4.44 g | Cl.FC=1C=CC(=C2C[C@H](COC12)N(CCC)C(CC)CC)OC
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | (R)-8 -fluoro-5-hydroxy-3-(N-3-pentyl-N-n-propylamino)chroman | 3.72 g | FC=1C=CC(=C2C[C@H](COC12)N(CCC)C(CC)CC)O | C17H26FNO2
